* source _FIG4_52_MSD
E_EC7         N44030 0 N43682 N43686 1
E_EC8         N43922 0 N44030 N43912 1
R_RC1         0 N44210  50 TC=0,0 
E_EC9         N43912 0 0 N43702 1
E_EC6         N43404 0 0 N43196 1
E_Ebuf2         N43176 0 OUT1 0 1
T_T7         N44170 0 N44210 0 Z0=50 TD=160n  
E_Ebuf3         N43682 0 N43414 0 1
E_EC4         N43526 0 N43176 N43180 1
E_EC2         OUT1 0 N44560 N44424 1
E_E9         VOUT 0 N43922 0 244.1e-6
E_Ebuf1         N44170 0 N44474 0 1
T_T10         N43414 0 N43196 0 Z0=50 TD=10n  
T_T8         OUT1 0 N44220 0 Z0=50 TD=10n  
E_EC5         N43414 0 N43526 N43404 1
E_EC1         N44560 0 N44170 N44210 1
R_RC5         0 N43686  50 TC=0,0 
R_RC2         0 N44220  50 TC=0,0 
R_RC6         0 N43702  50 TC=0,0 
E_EC3         N44424 0 0 N44220 1
T_T12         N43922 0 N43702 0 Z0=50 TD=10n  
T_T11         N43682 0 N43686 0 Z0=50 TD=160n  
T_T9         N43176 0 N43180 0 Z0=50 TD=160n  
R_RC4         0 N43196  50 TC=0,0 
R_RC3         0 N43180  50 TC=0,0 
V_V1         N44474 0 DC 0Vdc AC 1Vac 
