* source _FIG4_53_MSD
E_E2         N29626 0 N29524 0 1
T_T2         N29626 0 N29620 0 Z0=50 TD=10n  
R_R2         0 N29620  50 TC=0,0 
E_E1         N29764 0 N29620 0 .03125
E_Esum1         N29736 0 N29684 N29708 -1
V_V1         N29746 0 DC 0Vdc AC 1Vac 
R_R1         0 N29524  50 TC=0,0 
E_EA2         N29708 0 N29620 0 .78125
E_EA1         N29684 0 N29626 0 1.75
T_T1         N29530 0 N29524 0 Z0=50 TD=10n  
E_Eadd1         N29530 0 N29746 N29736 1
T_T3         N30553 0 N30547 0 Z0=50 TD=10n  
E_Eadd2         N30553 0 N29764 N30759 1
E_EA3         N30707 0 N30649 0 1.75
R_R3         0 N30547  50 TC=0,0 
E_E4         N30779 0 N30643 0 .03125
E_EA4         N30731 0 N30643 0 .78125
R_R4         0 N30643  50 TC=0,0 
E_E3         N30649 0 N30547 0 1
E_Esum2         N30759 0 N30707 N30731 -1
T_T4         N30649 0 N30643 0 Z0=50 TD=10n  
E_Esum3         N31738 0 N31686 N31710 -1
E_EA6         N31710 0 N31622 0 .78125
R_R5         0 N31526  50 TC=0,0 
T_T5         N31532 0 N31526 0 Z0=50 TD=10n  
E_EA5         N31686 0 N31628 0 1.75
T_T6         N31628 0 N31622 0 Z0=50 TD=10n  
E_Eadd3         N31532 0 N30779 N31738 1
E_E6         VOUTBQ 0 N31622 0 .03125
E_E5         N31628 0 N31526 0 1
R_R6         0 N31622  50 TC=0,0 
R_RC1         0 N32987  50 TC=0,0 
R_RC2         0 N33007  50 TC=0,0 
E_EC2         N33955 0 N38366 N33910 1
E_EC1         N38366 0 N32973 N32987 1
T_T7         N32973 0 N32987 0 Z0=50 TD=160n  
E_E7         N33015 0 N33955 0 .0625
T_T8         N33955 0 N33007 0 Z0=50 TD=10n  
E_EC3         N33910 0 0 N33007 1
E_Ebuf1         N32973 0 N29746 0 1
E_EC6         N39531 0 0 N39323 1
T_T9         N39303 0 N39307 0 Z0=50 TD=160n  
E_Ebuf2         N39303 0 N33015 0 1
E_E8         N39331 0 N39541 0 .0625
T_T10         N39541 0 N39323 0 Z0=50 TD=10n  
R_RC3         0 N39307  50 TC=0,0 
R_RC4         0 N39323  50 TC=0,0 
E_EC4         N39651 0 N39303 N39307 1
E_EC5         N39541 0 N39651 N39531 1
R_RC6         0 N40344  50 TC=0,0 
R_RC5         0 N40328  50 TC=0,0 
E_EC9         N40552 0 0 N40344 1
E_Ebuf3         N40324 0 N39331 0 1
T_T12         N40562 0 N40344 0 Z0=50 TD=10n  
E_EC8         N40562 0 N40672 N40552 1
T_T11         N40324 0 N40328 0 Z0=50 TD=160n  
E_E9         VOUTS 0 N40562 0 .0625
E_EC7         N40672 0 N40324 N40328 1
