* source _FIG4_54_MSD
E_E3         N44919 0 N44817 0 1
R_RC5         0 N43695  50 TC=0,0 
E_Esum3         N45527 0 N45475 N45499 -1
E_Ebuf3         N43691 0 N43213 0 1
E_EC4         N43535 0 N43185 N43189 1
T_T7         N45777 0 N45817 0 Z0=50 TD=160n  
E_E5         N45417 0 N45315 0 1
R_R1         0 N44301  50 TC=0,0 
T_T4         N44919 0 N44913 0 Z0=50 TD=10n  
T_T3         N44823 0 N44817 0 Z0=50 TD=10n  
R_RC4         0 N43205  50 TC=0,0 
T_T2         N44403 0 N44397 0 Z0=50 TD=10n  
E_Esum1         N44513 0 N44461 N44485 -1
E_EC9         N43921 0 0 N43711 1
E_EC6         N43413 0 0 N43205 1
E_Ebuf1         N45777 0 N44523 0 1
E_E6         VOUTBQ 0 N45411 0 .03125
R_RC2         0 N45827  50 TC=0,0 
T_T9         N43185 0 N43189 0 Z0=50 TD=160n  
E_Eadd1         N44307 0 N44523 N44513 1
E_E1         N44537 0 N44397 0 .03125
R_RC1         0 N45817  50 TC=0,0 
E_EA2         N44485 0 N44397 0 .8125
E_Ebuf2         N43185 0 N43459 0 1
E_EC5         N43423 0 N43535 N43413 1
E_Esum2         N45029 0 N44977 N45001 -1
R_R5         0 N45315  50 TC=0,0 
T_T6         N45417 0 N45411 0 Z0=50 TD=10n  
E_E8         N43213 0 N43423 0 .0625
R_RC3         0 N43189  50 TC=0,0 
R_R4         0 N44913  50 TC=0,0 
T_T8         N46041 0 N45827 0 Z0=50 TD=10n  
E_EA1         N44461 0 N44403 0 1.78125
R_RC6         0 N43711  50 TC=0,0 
R_R3         0 N44817  50 TC=0,0 
E_Eadd2         N44823 0 N44537 N45029 1
T_T12         N43931 0 N43711 0 Z0=50 TD=10n  
R_R6         0 N45411  50 TC=0,0 
E_EA5         N45475 0 N45417 0 1.78125
T_T1         N44307 0 N44301 0 Z0=50 TD=10n  
T_T5         N45321 0 N45315 0 Z0=50 TD=10n  
E_EC1         N46177 0 N45777 N45817 1
E_E9         VOUTS 0 N43931 0 .0625
R_R2         0 N44397  50 TC=0,0 
V_V1         N44523 0 DC 0Vdc AC 1Vac 
E_E4         N45043 0 N44913 0 .03125
E_Eadd3         N45321 0 N45043 N45527 1
T_T11         N43691 0 N43695 0 Z0=50 TD=160n  
E_EA6         N45499 0 N45411 0 .8125
E_EA3         N44977 0 N44919 0 1.78125
E_EC7         N44039 0 N43691 N43695 1
E_EC8         N43931 0 N44039 N43921 1
T_T10         N43423 0 N43205 0 Z0=50 TD=10n  
E_EC2         N46041 0 N46177 N46031 1
E_E7         N43459 0 N46041 0 .0625
E_E2         N44403 0 N44301 0 1
E_EC3         N46031 0 0 N45827 1
E_EA4         N45001 0 N44913 0 .8125
