* source _FIG2_40_MISMATCH_MSD
V_VCM         VCM 0 DC .5  
V_Vphi2         PHI2 0  
+PULSE 0 1 0 200p 200p 4n 10n
V_Vphi3         PHI3 0  
+PULSE 0 1 5n 200p 200p 4n 10n
V_VDD         VDD 0 DC 1  
V_Vphi1         PHI1 0  
+PULSE 0 1 0 200p 200p 4n 10n
X_U5_S1    PHI1 U5_VTRIP VINP VOPM SCHEMATIC1_U5_S1 
R_U5_R1         0 U5_VTRIP  100Meg TC=0,0 
R_U5_R2         U5_VTRIP VDD  100Meg TC=0,0 
X_U4_S1    PHI1 U4_VTRIP VINM VOPP SCHEMATIC1_U4_S1 
R_U4_R1         0 U4_VTRIP  100Meg TC=0,0 
R_U4_R2         U4_VTRIP VDD  100Meg TC=0,0 
C_CLB         0 VOUTM  10p  TC=0,0 
X_U1_S1    PHI2 U1_VTRIP VINSP N11050 SCHEMATIC1_U1_S1 
R_U1_R1         0 U1_VTRIP  100Meg TC=0,0 
R_U1_R2         U1_VTRIP VDD  100Meg TC=0,0 
R_U9_R3         U9_N00417 U9_N00447  .0001 TC=0,0 
R_U9_RT         U9_N00417 VOPP  1 TC=0,0 
R_U9_RB         VOPM U9_N00417  1 TC=0,0 
R_U9_R4         U9_N00417 U9_N01744  .0001 TC=0,0 
G_U9_G1         VOPP U9_N00405 VINP VINM 100Meg
G_U9_G2         U9_N00405 VOPM VINP VINM 100Meg
R_U9_R5         U9_N00405 U9_N00417  .0001 TC=0,0 
G_U9_G3         U9_N00447 0 VCM U9_N01744 100Meg
X_U7_S1    PHI3 U7_VTRIP VOPP VOUTP SCHEMATIC1_U7_S1 
R_U7_R1         0 U7_VTRIP  100Meg TC=0,0 
R_U7_R2         U7_VTRIP VDD  100Meg TC=0,0 
X_U8_S1    PHI3 U8_VTRIP VOPM VOUTM SCHEMATIC1_U8_S1 
R_U8_R1         0 U8_VTRIP  100Meg TC=0,0 
R_U8_R2         U8_VTRIP VDD  100Meg TC=0,0 
X_U2_S1    PHI2 U2_VTRIP VINSM N11062 SCHEMATIC1_U2_S1 
R_U2_R1         0 U2_VTRIP  100Meg TC=0,0 
R_U2_R2         U2_VTRIP VDD  100Meg TC=0,0 
V_Vinp         VINSP 0  
+SIN .5 .15 2.5Meg 0 0 0
V_Vinm         VINSM 0  
+SIN .5 -.15 2.5Meg 0 0 0
X_U6_S1    PHI3 U6_VTRIP N11062 VOPM SCHEMATIC1_U6_S1 
R_U6_R1         0 U6_VTRIP  100Meg TC=0,0 
R_U6_R2         U6_VTRIP VDD  100Meg TC=0,0 
C_CFB         N11062 VINP  1p  TC=0,0 
X_U3_S1    PHI3 U3_VTRIP N11050 VOPP SCHEMATIC1_U3_S1 
R_U3_R1         0 U3_VTRIP  100Meg TC=0,0 
R_U3_R2         U3_VTRIP VDD  100Meg TC=0,0 
C_CFT         N11050 VINM  2p  TC=0,0 
C_CLT         VOUTP 0  10p  TC=0,0 

.subckt SCHEMATIC1_U5_S1 1 2 3 4  
S_U5_S1         3 4 1 2 _U5_S1
RS_U5_S1         1 2 1G
.MODEL         _U5_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends SCHEMATIC1_U5_S1

.subckt SCHEMATIC1_U4_S1 1 2 3 4  
S_U4_S1         3 4 1 2 _U4_S1
RS_U4_S1         1 2 1G
.MODEL         _U4_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends SCHEMATIC1_U4_S1

.subckt SCHEMATIC1_U1_S1 1 2 3 4  
S_U1_S1         3 4 1 2 _U1_S1
RS_U1_S1         1 2 1G
.MODEL         _U1_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends SCHEMATIC1_U1_S1

.subckt SCHEMATIC1_U7_S1 1 2 3 4  
S_U7_S1         3 4 1 2 _U7_S1
RS_U7_S1         1 2 1G
.MODEL         _U7_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends SCHEMATIC1_U7_S1

.subckt SCHEMATIC1_U8_S1 1 2 3 4  
S_U8_S1         3 4 1 2 _U8_S1
RS_U8_S1         1 2 1G
.MODEL         _U8_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends SCHEMATIC1_U8_S1

.subckt SCHEMATIC1_U2_S1 1 2 3 4  
S_U2_S1         3 4 1 2 _U2_S1
RS_U2_S1         1 2 1G
.MODEL         _U2_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends SCHEMATIC1_U2_S1

.subckt SCHEMATIC1_U6_S1 1 2 3 4  
S_U6_S1         3 4 1 2 _U6_S1
RS_U6_S1         1 2 1G
.MODEL         _U6_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends SCHEMATIC1_U6_S1

.subckt SCHEMATIC1_U3_S1 1 2 3 4  
S_U3_S1         3 4 1 2 _U3_S1
RS_U3_S1         1 2 1G
.MODEL         _U3_S1 VSWITCH Roff=1e9 Ron=1.0 Voff=-1e-3 Von=1e-3
.ends SCHEMATIC1_U3_S1
